US07700641B2
Synthesis of 1′-(3-aminopropyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
To a solution of 2-[3-(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)propyl]-1H-isoindole-1,3(2H)-dione (3.20 g, 6.80 mmol) in ethanol (70.0 mL) was added hydrazine monohydrate (1.87 g, 37.0 mmol). The mixture was stirred at ambient temperature for 4 h. The solvent was removed under reduced pressure and the residue was re-dissolved in ethyl acetate. The solution was washed with sodium bicarbonate and brine solution, dried over MgSO4 and filtered. The filtrate was concentrated in vacuo to dryness. The residue was crystallized from hexane to yield the title compound (2.50 g) in 75% yield: 1H NMR (300 MHz, CDCl3) δ 7.31-7.24 (m, 1H), 7.16-7.14 (m, 1H), 7.06-7.01 (m, 1H), 6.94-6.91 (m, 1H), 6.48 (s, 1H), 6.10 (s, 1H), 5.82 (m, 2H), 4.90-4.87 (m, 1H), 4.61 (d, 1H), 3.98-3.71 (m, 2H), 2.77-2.73 (m, 2H), 1.97 (br, 2H), 1.84-1.81 (m, 2H); 13C NMR (75 MHz, CDCl3) δ 177.8, 155.9, 148.9, 142.3, 142.2, 132.4, 129.0, 124.0, 123.4, 119.4, 108.7, 103.0, 101.5, 93.6, 80.5, 58.2, 38.8, 37.5, 30.6; MS (ES+) m/z 339.3 (M+1).

reactant | 2-[3-(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)propyl]-1H-isoindole-1,3(2H)-dione | 6.80 mmol, 3.20 g | O=C1N(C2=CC=CC=C2C12COC=1C2=CC2=C(OCO2)C1)CCCN1C(C2=CC=CC=C2C1=O)=O | C27H20N2O6
reactant | hydrazine monohydrate | 37.0 mmol, 1.87 g | O.NN
solvent | ethanol | 70.0 mL | C(C)O | C2H6O
product | 1′-(3-aminopropyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 2.50 g, 75% yield | NCCCN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C19H18N2O4
